US04518596
4-(1-Oxido-thiomorpholino)-8-phenylthio-2-piperazino-pyrimido-[5,4-d]-pyrimidine
This compound was prepared analogous to Example 2 from 2-chloro-4-(1-oxido-thiomorpholino)-8-phenylthio-pyrimido-[5,4-d]-pyrimidine (m.p.: 253°-255° C.) and piperazine.

reactant | 2-chloro-4-(1-oxido-thiomorpholino)-8-phenylthio-pyrimido-[5,4-d]-pyrimidine | ClC=1N=C(C2=C(N1)C(=NC=N2)SC2=CC=CC=C2)N2CCS(CC2)=O | C16H14ClN5OS2
reactant | piperazine | N1CCNCC1 | C4H10N2
product | 4-(1-Oxido-thiomorpholino)-8-phenylthio-2-piperazino-pyrimido-[5,4-d]-pyrimidine | O=S1CCN(CC1)C=1C2=C(N=C(N1)N1CCNCC1)C(=NC=N2)SC2=CC=CC=C2 | C20H23N7OS2
